US08053438B2
To a solution of 1-acetyl-1,4,5,6-tetrahydropyridin-3-yl trifluoromethanesulfonate (2.5 g, 9.15 mmol), bis(pinacolato)diboron (2.88 g, 11.34 mmol), potassium acetate (1.91 g, 19.46 mmol), and dioxane (60 mL) was added 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium(ii) dichloromethane complex (400 mg, 0.547 mmol). The mixture was purged with nitrogen and then was heated to 80° C. After 16 hours, the reaction was cooled to room temperature. The mixture was diluted with 150 mL of Teac and washed with 50 mL of water and 50 mL of brine, dried over MgSO4, and concentrated in vacuo. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with 0% to 40% Teac in hexane, to provide 1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyridin-1(2H)-yl)ethanone as an orange oil. [M+1]=252.1.

reactant | 1-acetyl-1,4,5,6-tetrahydropyridin-3-yl trifluoromethanesulfonate | 9.15 mmol, 2.5 g | FC(S(=O)(=O)OC1=CN(CCC1)C(C)=O)(F)F | C8H10F3NO4S
reactant | bis(pinacolato)diboron | 11.34 mmol, 2.88 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 19.46 mmol, 1.91 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyridin-1(2H)-yl)ethanone | CC1(OB(OC1(C)C)C=1CCCN(C1)C(C)=O)C | C13H22BNO3
